US04051248
C. 1-Phenyl-8-[(1,2,3,4-tetrahydro-6,7-dimethyl-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one, hydrochloride (1:1)
1-Phenyl-8-[(1,2,3,4-tetrahydro-6,7-dimethyl-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one (15.0 g) is slurried in 150 ml of absolute ethanol and treated with 1.2 equivalents of ethereal hydrogen chloride. The resulting mixture is stirred at room temperature for 1 hour and then filtered to yield 14.7 g of the title compound, melting point 260°-262° C.

reactant | 1-Phenyl-8-[(1,2,3,4-tetrahydro-6,7-dimethyl-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one | 15.0 g | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2C(C1=CC(=C(C=C1CC2)C)C)=O)=O | C26H31N3O2
reactant | hydrogen chloride | 1.2 equivalents | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-Phenyl-8-[(1,2,3,4-tetrahydro-6,7-dimethyl-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one, hydrochloride | 14.7 g | Cl.C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2C(C1=CC(=C(C=C1CC2)C)C)=O)=O | InChI=1S/C26H31N3O2.ClH/c1-18-14-20-8-9-21(24(30)23(20)15-19(18)2)16-28-12-10-26(11-13-28)25(31)27-17-29(26)22-6-4-3-5-7-22;/h3-7,14-15,21H,8-13,16-17H2,1-2H3,(H,27,31);1H
